US05420275
8-Amino-7-methylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-026)
To 57 mg of 3-amino-4,5-diethoxycarbonyl-2-methylpyridine was added 0.5 mL of hydrazine monohydrate, and the mixture was heated at 100° C. in a stream of nitrogen for 30 minutes. After the solvent was distilled off, the resulting crystals were collected by filtration with ethanol. Water was added to the crystals, and the mixture was neutralized with 1N hydrochloric acid, followed by collection of the crystals by filtration.

reactant | 3-amino-4,5-diethoxycarbonyl-2-methylpyridine | 57 mg | NC=1C(=NC=C(C1C(=O)OCC)C(=O)OCC)C | C12H16N2O4
reactant | hydrazine monohydrate | 0.5 mL | O.NN
product | 8-Amino-7-methylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione | NC1=C(N=CC=2C(NNC(C21)=O)=O)C | C8H8N4O2
